US04298614
A mixture of chloroacetone (26.23 mL, 30.48 g, 0.329 mol), potassium iodide (1.0 g, 6 mmol), and reagent grade acetone (dried over K2CO3, ca. 400 mL) was allowed to stand for 151/2 hours. 7-Hydroxy-4-methylcoumarin (50.0 g, 0.284 mol), anhyd. K2CO3 (45.50 g, 0.321 mol), and dry reagent grade acetone (1 L) were added and the mixture was refluxed for 24 hours with overhead stirring. The hot mixture was filtered and the precipitate was washed with acetone. The washes and the filtrate were combined and evaporated in vacuo to obtain a yellow solid, which dissolved in CHCl3 (1.3 L). The CHCl3 solution was extracted once with 5% aq. NaOH (500 mL), washed with two portions (500 mL) of water, dried (MgSO4), and evaporated in vacuo to obtain 7-acetonyloxy-4-methylcoumarin (64.30 g, 97.5%), mp 146.0°-148.0° C. Recrystallization of 61.82 g from 95% ethanol gave a purer product (53.91 g, 87% recovery, 85% yield), mp 150.1°-151.2° C.

reactant | chloroacetone | 0.329 mol, 26.23 mL, 30.48 g | ClCC(C)=O | C3H5ClO
reactant | acetone | ca. 400 mL | CC(=O)C | C3H6O
reactant | 7-Hydroxy-4-methylcoumarin | 0.284 mol, 50.0 g | OC1=CC=C2C(=CC(OC2=C1)=O)C | C10H8O3
reactant | K2CO3 | 0.321 mol, 45.50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 1 L | CC(=O)C | C3H6O
solvent | CHCl3 | 1.3 L | C(Cl)(Cl)Cl | CHCl3
catalyst | potassium iodide | 6 mmol, 1.0 g | [I-].[K+]
product | 7-acetonyloxy-4-methylcoumarin | 64.30 g, 97.5% | C(C(=O)C)OC1=CC=C2C(=CC(OC2=C1)=O)C | C13H12O4
